US09169281B2
Step 1: Production of 4-(1H-pyrazole-1-yl)benzenesulfonic acid
A solution was prepared by adding 1-phenylpyrazole (1.3 ml, 9.8 mmol) to concentrated sulfuric acid (2 ml). To this solution, fuming sulfuric acid (5 ml, 30% SO3) was added gradually over at least 5 minutes at 0° C. The resultant mixture was heated to 35° C., and this temperature was kept for 1 hour. This mixture then was cooled to 0° C. by pouring it over crushed ice, thereby causing sulfate to precipitate. This sulfate was collected by filtration and then vacuum-dried. Thus, a desired compound, 4-(1H-pyrazole-1-yl)benzenesulfonic acid, was obtained in the form of a white solid (the yield calculated based on 1-phenylpyrazole: 37%). The instrumental analysis values of 4-(1H-pyrazole-1-yl)benzenesulfonic acid are shown below.

reactant | 1-phenylpyrazole | 9.8 mmol, 1.3 ml | C1(=CC=CC=C1)N1N=CC=C1 | C9H8N2
reactant | sulfuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
reactant | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
product | 4-(1H-pyrazole-1-yl)benzenesulfonic acid | N1(N=CC=C1)C1=CC=C(C=C1)S(=O)(=O)O | C9H8N2O3S
